US06372733B1
Step D: (±)-trans-Decahydro-4-oxo-benzo[b]-1,4-thiazepine
To (±)-trans-2-amino-1-[2-(carboxy)ethylthio]-cyclohexane hydrochloride (0.240 g, 1 mmol) dissolved in 2 mL of dimethylformaamide at 0° C. was successively added 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide (0.356 g, 1.2 mmol), 1-hydroxy-7-azabenzotriazole (0.164 g, 1.2 mmol) and then finally N-methylmorpholine (0.252 g, 2.5 mmol). After stirring for an additional 5 mins., the reaction mixture was warmed to room temperature and stirred overnight at the same temperature. The following day the reaction mixture was diluted with water and extracted with methylene chloride.

reactant | (±)-trans-2-amino-1-[2-(carboxy)ethylthio]-cyclohexane hydrochloride | 1 mmol, 0.240 g | Cl.N[C@H]1[C@@H](CCCC1)SCCC(=O)O
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide | 1.2 mmol, 0.356 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxy-7-azabenzotriazole | 1.2 mmol, 0.164 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-methylmorpholine | 2.5 mmol, 0.252 g | CN1CCOCC1 | C5H11NO
solvent | water | O | H2O
product | (±)-trans-Decahydro-4-oxo-benzo[b]-1,4-thiazepine | O=C1N[C@H]2[C@H](SCC1)CCCC2 | C9H15NOS
